* PEX produced on Thu Aug  6 07:03:52 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from d_flip_flop_reset.ext - technology: ihp-sg13g2

.subckt d_flip_flop_reset VP GND d q_ q reset clk
X0 NAND_3in_nmosx3_0.c reset VP VP sg13_lv_pmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X1 a_607_n517# reset GND GND sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.13u
X2 a_579_n79# NAND_3in_nmosx3_0.a GND GND sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.13u
X3 NAND_3in_nmosx3_3.a NAND_3in_nmosx3_0.a VP VP sg13_lv_pmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X4 NAND_3in_nmosx3_3.a NAND_3in_nmosx3_0.c a_579_n79# GND sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.13u
X5 a_1423_n517# reset GND GND sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.13u
X6 VP d NAND_3in_nmosx3_0.c VP sg13_lv_pmos ad=55.5f pd=0.74u as=55.5f ps=0.74u w=0.15u l=0.13u
X7 VP clk NAND_3in_nmosx3_0.a VP sg13_lv_pmos ad=55.5f pd=0.74u as=55.5f ps=0.74u w=0.15u l=0.13u
X8 VP NAND_3in_nmosx3_0.c NAND_3in_nmosx3_3.a VP sg13_lv_pmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X9 a_709_n517# d a_607_n517# GND sg13_lv_nmos ad=57f pd=0.68u as=57f ps=0.68u w=0.3u l=0.13u
X10 NAND_3in_nmosx3_0.y NAND_3in_nmosx3_0.c VP VP sg13_lv_pmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X11 VP NAND_3in_nmosx3_0.y q_ VP sg13_lv_pmos ad=55.5f pd=0.74u as=55.5f ps=0.74u w=0.15u l=0.13u
X12 a_n175_n517# clk a_n277_n517# GND sg13_lv_nmos ad=57f pd=0.68u as=57f ps=0.68u w=0.3u l=0.13u
X13 NAND_3in_nmosx3_0.a NAND_3in_nmosx3_3.a a_n175_n79# GND sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.13u
X14 NAND_3in_nmosx3_0.a reset VP VP sg13_lv_pmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X15 a_1525_n517# NAND_3in_nmosx3_0.y a_1423_n517# GND sg13_lv_nmos ad=57f pd=0.68u as=57f ps=0.68u w=0.3u l=0.13u
X16 q q_ VP VP sg13_lv_pmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X17 NAND_3in_nmosx3_0.c NAND_3in_nmosx3_0.y a_709_n517# GND sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.13u
X18 a_n277_n517# NAND_3in_nmosx3_0.c GND GND sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.13u
X19 NAND_3in_nmosx3_0.y NAND_3in_nmosx3_0.a VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X20 NAND_3in_nmosx3_0.c NAND_3in_nmosx3_0.y VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X21 NAND_3in_nmosx3_0.a NAND_3in_nmosx3_3.a VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X22 a_1327_n79# q_ GND GND sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.13u
X23 q_ q a_1525_n517# GND sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.13u
X24 q NAND_3in_nmosx3_0.a a_1327_n79# GND sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.13u
X25 a_n175_n79# clk a_n277_n79# GND sg13_lv_nmos ad=57f pd=0.68u as=57f ps=0.68u w=0.3u l=0.13u
X26 VP clk NAND_3in_nmosx3_0.y VP sg13_lv_pmos ad=55.5f pd=0.74u as=55.5f ps=0.74u w=0.15u l=0.13u
X27 q_ reset VP VP sg13_lv_pmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X28 q_ q VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X29 a_n277_n79# reset GND GND sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.13u
X30 NAND_3in_nmosx3_0.y NAND_3in_nmosx3_0.a a_n175_n517# GND sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.13u
X31 VP NAND_3in_nmosx3_0.a q VP sg13_lv_pmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
C0 NAND_3in_nmosx3_0.c NAND_3in_nmosx3_0.y 0.91346f
C1 q_ a_1423_n517# 0.01441f
C2 clk NAND_3in_nmosx3_0.y 0.17195f
C3 q_ VP 0.19562f
C4 NAND_3in_nmosx3_3.a q 0.04108f
C5 NAND_3in_nmosx3_0.y VP 0.72808f
C6 d NAND_3in_nmosx3_0.y 0.42906f
C7 q VP 0.12287f
C8 VP NAND_3in_nmosx3_0.a 0.83842f
C9 q_ reset 0.31569f
C10 a_607_n517# a_709_n517# 0.07705f
C11 a_579_n79# NAND_3in_nmosx3_3.a 0.07883f
C12 NAND_3in_nmosx3_0.a reset 0.63717f
C13 NAND_3in_nmosx3_0.c VP 0.14404f
C14 NAND_3in_nmosx3_0.c reset 1.086f
C15 clk VP 0.15745f
C16 VP NAND_3in_nmosx3_3.a 0.38698f
C17 q_ NAND_3in_nmosx3_0.a 0.69652f
C18 a_n175_n517# a_n277_n517# 0.07705f
C19 q NAND_3in_nmosx3_0.y 0.4192f
C20 clk reset 0.87177f
C21 NAND_3in_nmosx3_3.a reset 0.12503f
C22 q_ NAND_3in_nmosx3_0.c 0.09197f
C23 reset VP 0.29636f
C24 d reset 0.40199f
C25 a_1525_n517# q 0.01218f
C26 a_n175_n79# a_n277_n79# 0.07705f
C27 NAND_3in_nmosx3_0.c NAND_3in_nmosx3_0.a 0.55956f
C28 q_ NAND_3in_nmosx3_3.a 0.02905f
C29 q_ VP 0.39453f
C30 clk NAND_3in_nmosx3_0.a 0.57395f
C31 NAND_3in_nmosx3_0.a NAND_3in_nmosx3_3.a 0.8092f
C32 VP q 0.27974f
C33 a_n175_n517# NAND_3in_nmosx3_0.y 0.08001f
C34 NAND_3in_nmosx3_0.a VP 0.13563f
C35 NAND_3in_nmosx3_0.c a_709_n517# 0.08066f
C36 NAND_3in_nmosx3_0.y reset 1.17943f
C37 clk NAND_3in_nmosx3_0.c 0.63236f
C38 NAND_3in_nmosx3_0.c NAND_3in_nmosx3_3.a 0.34794f
C39 a_1525_n517# a_1423_n517# 0.07705f
C40 NAND_3in_nmosx3_0.c VP 0.62355f
C41 d NAND_3in_nmosx3_0.c 0.34838f
C42 clk NAND_3in_nmosx3_3.a 0.40724f
C43 q_ NAND_3in_nmosx3_0.y 0.15011f
C44 clk VP 0.15975f
C45 q_ q 1.12728f
C46 a_1327_n79# q 0.07824f
C47 NAND_3in_nmosx3_0.a NAND_3in_nmosx3_0.y 0.59131f
C48 d VP 0.12812f
C49 NAND_3in_nmosx3_0.a q 0.10985f
C50 q_ a_1525_n517# 0.07769f
C51 a_n175_n79# NAND_3in_nmosx3_0.a 0.08001f
C52 VP reset 0.14198f
C53 q_ GND 0.80468f
C54 VP GND 2.93058f
C55 VP GND 1.68154f
C56 a_1525_n517# GND 0.83975f
C57 a_1423_n517# GND 0.101f
C58 a_709_n517# GND 0.03507f
C59 a_607_n517# GND 0.101f
C60 a_n175_n517# GND 0.03507f
C61 a_n277_n517# GND 0.101f
C62 a_1327_n79# GND 0.10128f
C63 a_579_n79# GND 1.92172f
C64 a_n175_n79# GND 0.88811f
C65 a_n277_n79# GND 0.101f
C66 NAND_3in_nmosx3_0.c GND 0.3291f
.ends

